US07365085B2
c) 2-(3-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-diphenylethyl-amino]-propoxy}-phenyl)-propane-1,3-diol hydrochloride salt
To 2-(3-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-diphenylethyl-amino]-propoxy}-phenyl)-malonic acid monomethyl ester (22 mg, 0.03 mmol) in diethyl ether (1 ml) was added lithium aluminum hydride (100 uL) at 0° C. The reaction was allowed to warm to room temperature before the addition of brine and ethyl acetate. The combined organic layers were dried over magnesium sulfate and evaporated. The crude product was purified by HPLC (YMC CombiPrep ODS-A, 50×20 mm, 20 mL/min, A: acetonitrile B: water, A: 60 to 100% during 10 min, UV detection at 254 nm) to give the title compound free amine as an oil. MS m/e 598.2(M+H)+. To a solution of the free amine in diethyl ether was added HCl in diethyl ether (1.0M). The suspension was evaporated and dried to give the title compound as a white solid (2 mg, 10%).

reactant | 2-(3-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-diphenylethyl-amino]-propoxy}-phenyl)-malonic acid monomethyl ester | 0.03 mmol, 22 mg | COC(C(C(=O)O)C1=CC(=CC=C1)OCCCN(CC(C1=CC=CC=C1)C1=CC=CC=C1)CC1=C(C(=CC=C1)C(F)(F)F)Cl)=O | C35H33ClF3NO5
reactant | lithium aluminum hydride | 100 uL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | diethyl ether | 1 ml | C(C)OCC | C4H10O
solvent | brine | [Cl-].[Na+].O
product | 2-(3-{3-[(2-Chloro-3-trifluoromethyl-benzyl)-diphenylethyl-amino]-propoxy}-phenyl)-propane-1,3-diol hydrochloride salt | Cl.ClC1=C(CN(CCCOC=2C=C(C=CC2)C(CO)CO)CC(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1C(F)(F)F | InChI=1S/C34H35ClF3NO3.ClH/c35-33-28(15-8-17-32(33)34(36,37)38)21-39(18-9-19-42-30-16-7-14-27(20-30)29(23-40)24-41)22-31(25-10-3-1-4-11-25)26-12-5-2-6-13-26;/h1-8,10-17,20,29,31,40-41H,9,18-19,21-24H2;1H
